US05407451
Synthesis of 1,2-dihydroxypropane dodecyl sulfide borate
A solution of 1,2-dihydroxypropane dodecyl sulfide (60 g), prepared as described in Example 3, n-butanol (40 g), and toluene (40 g) was heated to 55° C. and 9 g of boric acid were added. The expected amount of water was removed by azeotropic distillation with a maximum reaction temperature of 110° C. The reaction solution was filtered through diatomaceous earth. Solvent was removed by high speed rotary evaporation under reduced pressure yielding a white, waxy solid product.

reactant | 1,2-dihydroxypropane dodecyl sulfide | 60 g | C(CCCCCCCCCCC)SCCCCCCCCCCCC.OCC(C)O
reactant | n-butanol | 40 g | C(CCC)O | C4H10O
reactant | boric acid | 9 g | B(O)(O)O | BH3O3
solvent | toluene | 40 g | C1(=CC=CC=C1)C | C7H8
product | 1,2-dihydroxypropane dodecyl sulfide borate | B(O)(O)O.C(CCCCCCCCCCC)SCCCCCCCCCCCC.OCC(C)O | InChI=1S/C24H50S.C3H8O2.BH3O3/c1-3-5-7-9-11-13-15-17-19-21-23-25-24-22-20-18-16-14-12-10-8-6-4-2;1-3(5)2-4;2-1(3)4/h3-24H2,1-2H3;3-5H,2H2,1H3;2-4H
